US07786165B2
{4-[(3-tert-butyl-5-phenyl-1H-pyrazol-1-yl)methyl]phenyl}methanol
A mixture of 3-tert-butyl-5-phenyl-1H-pyrazole (2.0 g, 10 mmol), 4-(chloromethyl)benzyl alcohol (1.70 g, 10.8 mmol), potassium carbonate (2.76 g, 20 mmol) and N,N-dimethylformamide (20 mL) was stirred at 120° C. for 2 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography (5%-80% ethyl acetate/hexane) to give the title compound (640 mg, yield 20%) as a yellow oil.

reactant | 3-tert-butyl-5-phenyl-1H-pyrazole | 10 mmol, 2.0 g | C(C)(C)(C)C1=NNC(=C1)C1=CC=CC=C1 | C13H16N2
reactant | 4-(chloromethyl)benzyl alcohol | 10.8 mmol, 1.70 g | ClCC1=CC=C(CO)C=C1 | C8H9ClO
reactant | potassium carbonate | 20 mmol, 2.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | {4-[(3-tert-butyl-5-phenyl-1H-pyrazol-1-yl)methyl]phenyl}methanol | 640 mg, yield 20% | C(C)(C)(C)C1=NN(C(=C1)C1=CC=CC=C1)CC1=CC=C(C=C1)CO | C21H24N2O
